US05245051
N-[3-(Chroman-6-yloxy)-propyl]-6,7-dihydro-1,3-dioxolo[4,5-g][1,4]benzodioxin-6-methanamine
6-[3-[[(6,7-Dihydro-1,3-dioxolo[4,5-g][1,4]benzodioxin-6-yl)methyl]amino]propoxy]chromen-4-one hydrochloride (0.9 g, 2.0 mmole), prepared in Example 5 above, was dissolved in 50 ml of methanol and 4N HCl/IPA (12.5 ml, 50 mmole) and 10% Palladium on Carbon (0.2 g) were added. The mixture was hydrogenated on a Parr apparatus for 24 hours and 4 psi of hydrogen was absorbed. Water (10 ml) was added to dissolved the resulting mixture and the catalyst was removed by filteration. The filtrate was concentrated, and the residue was treated with saturated aqueous sodium bicarbonate and extracted with dichloromethane. The extract was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude product was chromatographed on a silica gel column using 5% methanol in dichloromethane as an eluent. The product-containing fractions (Rf=0.47 on silica gel with 5% chloroform/methanol) were combined, concentrated, dissolved in methanol and acidified with 4N HCl/IPA until the solution was 3 in pH. The resulting precipitate was collected on a Buchner funnel and recrystallized from methanol to give 0.45 g of title compound as a white solid hydrochloride, m.p. 217°-218° C.

reactant | 6-[3-[[(6,7-Dihydro-1,3-dioxolo[4,5-g][1,4]benzodioxin-6-yl)methyl]amino]propoxy]chromen-4-one hydrochloride | 2.0 mmole, 0.9 g | Cl.O1COC2=CC3=C(OCC(O3)CNCCCOC=3C=C4C(C=COC4=CC3)=O)C=C21
reactant | HCl IPA | 50 mmole, 4N, 12.5 ml | Cl.CC(C)O
solvent | methanol | 50 ml | CO | CH4O
catalyst | Palladium on Carbon | 0.2 g | [Pd] | Pd
product | N-[3-(Chroman-6-yloxy)-propyl]-6,7-dihydro-1,3-dioxolo[4,5-g][1,4]benzodioxin-6-methanamine | 0.45 g | O1CCCC2=CC(=CC=C12)OCCCNCC1OC2=C(OC1)C=C1C(=C2)OCO1 | C22H25NO6
